US08314094B2
6) Synthesis of 4-fluoro-N-{[2-oxo-6-(1H-pyrazol-5-yl)-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}benzamide
N-{[6-bromo-2-oxo-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}-4-fluorobenzamide (50 mg, 0.112 mmol), 1H-pyrazol-5-boronic acid (29 mg, 0.23 mmol), a palladium chloride-1,1-bis(diphenylphosphino)ferrocene complex (18.3 mg, 0.022 mmol) and potassium phosphate trihydrate (60 mg, 0.23 mmol) were suspended in DMF (0.5 mL) and water (0.05 mL), and the mixed solution was stirred at 120° C. for 30 minutes under microwave irradiation. After the reaction solution was left to cool, the solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by reverse-phase HPLC, whereby the objective compound (10 mg, 21%) was obtained as a pale yellow solid.

reactant | N-{[6-bromo-2-oxo-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}-4-fluorobenzamide | 0.112 mmol, 50 mg | BrC=1C=C2C(NC(NC2=CC1)=O)(C(F)(F)F)CNC(C1=CC=C(C=C1)F)=O | C17H12BrF4N3O2
reactant | 1H-pyrazol-5-boronic acid | 0.23 mmol, 29 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | potassium phosphate trihydrate | 0.23 mmol, 60 mg | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.05 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-fluoro-N-{[2-oxo-6-(1H-pyrazol-5-yl)-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}benzamide | FC1=CC=C(C(=O)NCC2(NC(NC3=CC=C(C=C23)C2=CC=NN2)=O)C(F)(F)F)C=C1 | C20H15F4N5O2
